US07655671B2
Synthesis of 14β-[(3-chlorobenzyl)oxy]-4,5α-epoxy-17-methyl-3-[(prop-2-inyl)oxy]-morphinan-6-one hydrochloride (18.HCl)
A mixture of unpurified 14β-[(3-chlorobenzyl)oxy]-4,5α-epoxy-3-hydroxy-17-methylmorphinan-6-one (500 mg of brown foamy resin), K2CO3 (485 mg, 3.51 mmol) and propargylbromide (0.26 ml, 3.51 mmol) and 40 ml acetone (with 0.5% H2O) was reflux heated under N2 for 3 h. After cooling the inorganic material was filtered off, washed with CH2Cl2 and the filtrate evaporated down. The evaporation residue (538 mg of brown oil) was purified using column chromatography (silica gel; CH2Cl2/MeOH/conc. NH4OH (250:2:0.5)). The evaporation residue (337 mg of yellow oil) was dissolved in ether and 18.HCl was precipitated as a pure substance by the addition of etherial HCl. Yield: 347 mg (74%). Fp. 145-150° C.; IR (KBr): 1717 (CO), 2118 (C═C) cm−1; 1H-NMR (DMSO-d6): δ 9.21 (s, wide, +NH), 7.71-7.32 (m, 4 arom. H), 6.96 (d, 1 arom. H, J=8.4 Hz), 6.82 (d, 1 arom. H, J=8.4 Hz), 5.20 (s, C5—H), 4.89 (d, 1H, C14OCH2, J=12.1 Hz), 4.69 (d, 1H, C14OCH2, J=12.1 Hz), 4.84 (d, 2H, C3OCH2, J=2.2 Hz), 3.58 (t, 1H, C═CH, J=2.2 Hz), 2.94 (d, +NCH3, J=4.4 Hz); MS (CI): m/z 465 (M++1).

reactant | 14β-[(3-chlorobenzyl)oxy]-4,5α-epoxy-3-hydroxy-17-methylmorphinan-6-one | 500 mg | ClC=1C=C(CO[C@@]23CCC([C@H]4[C@]25C=2C(=C(C=CC2C[C@H]3N(CC5)C)O)O4)=O)C=CC1 | C24H24ClNO4
reactant | K2CO3 | 3.51 mmol, 485 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | propargylbromide | 3.51 mmol, 0.26 ml | C(C#C)Br | C3H3Br
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 14β-[(3-chlorobenzyl)oxy]-4,5α-epoxy-17-methyl-3-[(prop-2-inyl)oxy]-morphinan-6-one hydrochloride | Cl.ClC=1C=C(CO[C@@]23CCC([C@H]4[C@]25C=2C(=C(C=CC2C[C@H]3N(CC5)C)OCC#C)O4)=O)C=CC1 | InChI=1S/C27H26ClNO4.ClH/c1-3-13-31-21-8-7-18-15-22-27(32-16-17-5-4-6-19(28)14-17)10-9-20(30)25-26(27,11-12-29(22)2)23(18)24(21)33-25;/h1,4-8,14,22,25H,9-13,15-16H2,2H3;1H/t22-,25+,26+,27-;/m1./s1
